### PR TITLE
[Merged by Bors] - feat(Geometry/Euclidean/Angle/Unoriented/TriangleInequality): Add criterion for equality case

### PR DESCRIPTION
**Pull request by LessnessRandomness**
The PR fills `proof_wanted` in the file `TriangleInequality.lean` (criterion for equality in the triangle inequality for angles).

---

- [x] depends on: #32100 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by LessnessRandomness** [comment]
Should I inline lemma `aux`, maybe? It is used only once.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 1]
```diff
@@ -131,11 +134,76 @@ lemma angle_le_angle_add_angle_of_norm_eq_one {x y z : V}
...
+  · have H3 : SameRay ℝ x (-y) := by
+      right; right; use - ⟪y, x⟫, 1
+      grind [real_inner_comm, neg_smul, one_smul]
+    have H4 : ‖x‖ = ‖-y‖ := by grind [norm_neg]
+    grind [SameRay.norm_eq_iff, angle_neg_left, angle_self]
+  · grind [real_inner_comm, zero_smul]
+  · have H3 : SameRay ℝ x y := by
+      right; right; use ⟪y, x⟫, 1
+      grind [real_inner_comm, one_smul]
+    grind [SameRay.norm_eq_iff, angle_self]
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]:
```suggestion
  grind [abs, norm_smul, Real.norm_eq_abs, norm_zero, inner_eq_mul_norm_iff_angle_eq_zero, inner_eq_neg_mul_norm_iff_angle_eq_pi]
```
(there's an open PR tagging `abs` with `grind`, so that will soon be a redundant argument.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 2]
```diff
@@ -131,11 +134,76 @@ lemma angle_le_angle_add_angle_of_norm_eq_one {x y z : V}
...
+    {x y z : V} (Hx : ‖x‖ = 1) (Hy : ‖y‖ = 1) (Hz : ‖z‖ = 1) :
+    angle x z ≠ Real.pi → angle x z = angle x y + angle y z →
+    Real.sin (angle x z) • y = Real.sin (angle y z) • x + Real.sin (angle x y) • z := by
+  intros H H0
+  obtain H1 | H1 := eq_or_ne (angle x z) 0
+  · grind [angle_nonneg, Real.sin_zero, zero_smul]
+  have Hxz : Real.sin (angle x z) ≠ 0 := by
+    grind [sin_eq_zero_iff_angle_eq_zero_or_angle_eq_pi]
+  obtain H2 | H2 := eq_or_ne (angle x y) 0
+  · grind [Real.sin_zero, zero_smul, add_zero, eq_of_norm_eq_of_angle_eq_zero]
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]:
```suggestion
  · grind [Real.sin_zero, zero_smul, eq_of_norm_eq_of_angle_eq_zero]
```

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 3]
```diff
@@ -131,11 +134,76 @@ lemma angle_le_angle_add_angle_of_norm_eq_one {x y z : V}
...
+      grind [real_inner_comm, one_smul]
+    grind [SameRay.norm_eq_iff, angle_self]
+
+lemma eq_of_norm_eq_of_angle_eq_zero {x y : V}
+    (Hxy : ‖x‖ = ‖y‖) (H : angle x y = 0) : x = y := by
+  rw [angle_eq_zero_iff] at H
+  obtain ⟨_, ⟨r, ⟨Hr, H⟩⟩⟩ := H
+  have H1 : SameRay ℝ x y := by
+    right; right; use r, 1; grind [one_smul]
+  exact SameRay.eq_of_norm_eq H1 Hxy
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]:
```suggestion
  grind [abs, norm_zero, norm_smul, Real.norm_eq_abs, one_smul]
```
This requires changing the hypotheses to `(Hx : ‖x‖ = 1) (Hy : ‖y‖ = 1)`, but that has no drawback since this is a private lemma anyways.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 4]
```diff
@@ -1,14 +1,15 @@
...
-Authors: Ilmārs Cīrulis, Alex Meiburg
+Authors: Ilmārs Cīrulis, Alex Meiburg, Jovan Gerbscheid
 -/
 module
 
-public import Mathlib.Analysis.InnerProductSpace.Projection.Basic
 public import Mathlib.Analysis.NormedSpace.Normalize
 public import Mathlib.Geometry.Euclidean.Angle.Unoriented.Affine
-public import Mathlib.Geometry.Euclidean.Angle.Unoriented.Basic
+public import Mathlib.Analysis.Normed.Module.Ray
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: I was going to say that this `import` need not be `public`, but with my below suggestions, the whole import can now be removed

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 5]
```diff
@@ -146,6 +214,86 @@ public theorem InnerProductGeometry.angle_le_angle_add_angle (x y z : V) :
...
+      have H3: y = (⟨r⁻¹, by positivity⟩ : ℝ≥0) • z := by
+        simp [H2, ← smul_assoc, smul_eq_mul, (ne_of_lt H1).symm]
+      rw [H3]; apply Submodule.smul_mem; simp [Submodule.span]
+    obtain hz | hz := eq_or_ne z 0
+    · subst z; simp_all
+      rw [angle_eq_zero_iff] at H
+      obtain ⟨_, ⟨r, ⟨H1, H2⟩⟩⟩ := H
+      have H3 : y = (⟨r, by positivity⟩ : ℝ≥0) • x := by simp [H2]
+      rw [H3]; apply Submodule.smul_mem; simp [Submodule.span]
+      intros p Hp; apply Hp; simp
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]:
```suggestion
      obtain ⟨_, ⟨r2, ⟨H5, rfl⟩⟩⟩ := H2
      lift r2 to ℝ≥0 using H5.le
      exact Submodule.smul_mem _ _ (Submodule.mem_span_of_mem (by simp))
    have H2 : Real.sin (angle x z) ≠ 0 := by
      grind [sin_eq_zero_iff_angle_eq_zero_or_angle_eq_pi]
    obtain hx | hx := eq_or_ne x 0
    · subst x; simp only [angle_zero_left, left_eq_add] at H
      rw [angle_eq_zero_iff] at H
      obtain ⟨_, ⟨r, ⟨H3, rfl⟩⟩⟩ := H
      lift r to ℝ≥0 using H3.le
      rw [← NNReal.smul_def, Submodule.span_insert_zero, Submodule.span_singleton_smul_eq]
      · simp
      norm_cast at H3
      grind [isUnit_iff_ne_zero]
    obtain hz | hz := eq_or_ne z 0
    · subst z; simp only [angle_zero_right, right_eq_add] at H
      rw [angle_eq_zero_iff] at H
      obtain ⟨_, ⟨r, ⟨H1, rfl⟩⟩⟩ := H
      lift r to ℝ≥0 using H1.le
      exact Submodule.smul_mem _ _ (Submodule.mem_span_of_mem (by simp))
```
You can use the `lift` tactic to lift things e.g. from `ℝ≥0` to `ℝ`.

The suggested change also gets rid of a non-terminal `simp_all`, which we don't want to have.

You can also use `by_cases`/`by_cases!` instead of using the lemma `eq_or_ne`.

Can you use more descriptive names for local hypotheses? Usually they are a lower-case `h` followed by something, e.g. `hx`, `hy`.

I am slightly annoyed that `norm_cast` doesn't deal with `((r : ℝ≥0) : ℝ) • x`.

**Review by JovanGerb — COMMENTED** [review]
I've left some suggestions for how to golf the proofs. But there are probably more possible improvements.

**Comment by JovanGerb** [comment]
> Should I inline lemma `aux`, maybe? It is used only once.

Since it is a private lemma, it doesn't really matter other than for readability of the proof, so I think it's fine to keep it separate. But it could use a more descriptive name.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 6]
```diff
@@ -131,11 +133,62 @@ lemma angle_le_angle_add_angle_of_norm_eq_one {x y z : V}
   grw [← H2]
   ring_nf; rfl
 
+lemma ortho_ne_zero_of_norm_eq_one_of_not_collinear {x y : V} (hx : ‖x‖ = 1) (hy : ‖y‖ = 1)
+    (hxy1 : angle x y ≠ 0) (hxy2 : angle x y ≠ Real.pi) :
+    ortho x y ≠ 0 := by
+  grind [ortho, Submodule.starProjection_unit_singleton, sub_eq_zero, abs, norm_smul,
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: Passing the lemma `sub_eq_zero` to `grind` makes me a bit uneasy. I'll post a MWE on Zulip: [#lean4 > grind needs &#96;sub_eq_zero&#96;](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/grind.20needs.20.60sub_eq_zero.60/with/560335334).

Either way, I think in general that `rw [A, B]; grind [C, D]` is nicer and more readable than `grind [A, B, C, D]`, because it isn't much longer, and gives a much better idea of what is happening.

**Review by JovanGerb — COMMENTED** [review]
I notice that there are a lot of places where you unfold `ortho` by rewriting with something like `ortho, Submodule.starProjection_unit_singleton`. Maybe it would be cleaner to write a few API lemmas about `ortho`, and then use those to rewrite `ortho`? That way you avoid doing the same thing multiple times

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 7]
```diff
@@ -133,6 +137,57 @@ lemma angle_le_angle_add_angle_of_norm_eq_one {x y z : V}
...
+lemma angle_expression_of_angle_eq_angle_sum
+    {x y z : V} (Hx : ‖x‖ = 1) (Hy : ‖y‖ = 1) (Hz : ‖z‖ = 1) :
+    angle x z ≠ Real.pi → angle x z = angle x y + angle y z →
+    Real.sin (angle x z) • y = Real.sin (angle y z) • x + Real.sin (angle x y) • z := by
+  intros H H0
+  obtain H1 | H1 := eq_or_ne (angle x z) 0
+  · grind [angle_nonneg, Real.sin_zero, zero_smul]
+  have Hxz : Real.sin (angle x z) ≠ 0 := by
+    grind [sin_eq_zero_iff_angle_eq_zero_or_angle_eq_pi]
+  obtain H2 | H2 := eq_or_ne (angle x y) 0
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: These can be rephrased as `have H2 : angle x y ≠ 0 := by` like you did below, right?

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 8]
```diff
@@ -133,6 +137,57 @@ lemma angle_le_angle_add_angle_of_norm_eq_one {x y z : V}
...
+  · grind [Real.sin_zero, zero_smul, eq_of_norm_eq_of_angle_eq_zero]
+  obtain H3 | H3 := eq_or_ne (angle y z) 0
+  · grind [Real.sin_zero, zero_smul, smul_right_inj, eq_of_norm_eq_of_angle_eq_zero]
+  obtain H4 | H4 := eq_or_ne (angle x y) Real.pi
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: You can write `π` for `Real.pi`, because I added a `open scoped Real`.

**Review by JovanGerb — COMMENTED** [review]
In the section `UnitVectorAngles`, you can have
```
variable {x y z : V}
variable (hx : ‖x‖ = 1) (hy : ‖y‖ = 1) (hz : ‖z‖ = 1)
```
at the top, since that will be used in each theorem. Though `inner_normalize_ortho` doesn't need the hypotheses, so I guess you could move that in between the two `variable` statements.

Since the `UnitVectorAngles` lemmas are private, I'd say it's probably fine to drop the `_of_norm_eq_one` from these lemma names. (And `eq_of_norm_eq_of_angle_eq_zero` now has the wrong name anyways)

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 9]
```diff
@@ -28,25 +28,29 @@ namespace InnerProductGeometry
...
   simp only [NormedSpace.normalize, real_inner_smul_right, mul_eq_zero, inv_eq_zero, norm_eq_zero]
   right; rw [ortho, real_inner_comm, Submodule.starProjection_inner_eq_zero]
   exact Submodule.mem_span_singleton_self y
 
-lemma inner_normalized_ortho_sq_add_inner_sq_eq_one {x y : V}
-    (hx : ‖x‖ = 1) (hy : ‖y‖ = 1) :
+variable {x y z : V}
+variable (hx : ‖x‖ = 1) (hy : ‖y‖ = 1) (hz : ‖z‖ = 1)
+
+include hx hy in
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: Oh right, I forgot about the need for `include`. You can do `include hx hy` (without `in`), which saves you a few lines.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean (hunk 8 above)
Comment (LessnessRandomness) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: Done.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean (hunk 7 above)
Comment (LessnessRandomness) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: O, I finally got it. 😅 Sorry, will do that in few moments.

Comment (LessnessRandomness) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: So... No, I believe these can't be rephrased this way.
One proves the goal in two opposite cases here, instead of proving `False` from `angle x y = 0`.

(I hope this makes sense.)

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean (hunk 9 above)
Comment (LessnessRandomness) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: Do you mean like this (to save a line)?
`include hx hy in lemma inner_normalized_ortho_sq_add_inner_sq_eq_one`

Comment (LessnessRandomness) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: I believe that I get it now. I do the `include hx hy` once and remove next `include hx hy in`.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 10]
```diff
@@ -66,62 +70,60 @@ lemma inner_normalized_ortho_sq_add_inner_sq_eq_one {x y : V}
...
+      real_inner_smul_right, inner_self_eq_one_of_norm_eq_one hy, real_inner_comm y x]
     ring
   rw [real_inner_comm x, H0]
   simp [H]
 
-lemma angle_le_angle_add_angle_of_norm_eq_one {x y z : V}
-    (Hx : ‖x‖ = 1) (Hy : ‖y‖ = 1) (Hz : ‖z‖ = 1) :
-    angle x z ≤ angle x y + angle y z := by
-  rcases lt_or_ge Real.pi (angle x y + angle y z) with H | H
+include hx hy hz in
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]:
```suggestion
include hz in
```

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 11]
```diff
@@ -133,6 +135,56 @@ lemma angle_le_angle_add_angle_of_norm_eq_one {x y z : V}
   grw [← H2]
   ring_nf; rfl
 
+include hx hy
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]:
```suggestion
```

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 12]
```diff
@@ -133,6 +135,56 @@ lemma angle_le_angle_add_angle_of_norm_eq_one {x y z : V}
...
+lemma ortho_ne_zero_of_not_collinear (hxy1 : angle x y ≠ 0) (hxy2 : angle x y ≠ π) :
+    ortho x y ≠ 0 := by
+  intro h; rw [ortho_eq_sub_inner _ hx, sub_eq_zero] at h
+  grind [abs, norm_smul, Real.norm_eq_abs, norm_zero, inner_eq_mul_norm_iff_angle_eq_zero,
+    inner_eq_neg_mul_norm_iff_angle_eq_pi]
+
+lemma eq_of_angle_eq_zero (hxy : angle x y = 0) : x = y := by
+  grind [angle_eq_zero_iff, abs, norm_zero, norm_smul, Real.norm_eq_abs, one_smul]
+
+include hx hy hz in
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]:
```suggestion
include hz in
```

**Review by JovanGerb — COMMENTED** [review]
A few more can be shortened

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 13]
```diff
@@ -266,10 +266,11 @@ public theorem angle_eq_angle_add_angle_iff {x y z : V} (hy : y ≠ 0) :
       simp; grind
     have h₁ := angle_expression_of_angle_eq_angle_sum (norm_normalize_eq_one_iff.mpr hx)
         (norm_normalize_eq_one_iff.mpr hy) (norm_normalize_eq_one_iff.mpr hz)
-    simp [angle_normalize_right, angle_normalize_right] at h₁
+    rw [angle_normalize_right, angle_normalize_right, angle_normalize_right] at h₁
+    rw [angle_normalize_left, angle_normalize_left, angle_normalize_left] at h₁
```
Comment (JovanGerb) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: These fit on one line with a `simp only`, right?

Comment (LessnessRandomness) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: Yes, they do. Somehow I missed this option. 😅

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 14]
```diff
@@ -28,25 +28,29 @@ namespace InnerProductGeometry
 section UnitVectorAngles
 
 /-- Gets the orthogonal direction of one vector relative to another. -/
-noncomputable def ortho (y x : V) : V := x - (ℝ ∙ y).starProjection x
+noncomputable def ortho (x y : V) : V := y - (ℝ ∙ x).starProjection y
 
-lemma inner_ortho_nonneg_of_norm_eq_one {x y : V} (hx : ‖x‖ = 1) (hy : ‖y‖ = 1) :
```
Comment (Ruben-VandeVelde) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:33]: Please don't remove this without deprecation

Comment (themathqueen) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:33]: I don't think that's necessary here since this is a private lemma

Comment (LessnessRandomness) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:33]: I kinda agree with @themathqueen 🤔

Comment (JovanGerb) [reply Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean:33]: Yes exactly, this is a private definition, so there is no point in doing deprecations.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 15]
```diff
@@ -133,6 +135,55 @@ lemma angle_le_angle_add_angle_of_norm_eq_one {x y z : V}
...
   ring_nf; rfl
 
+lemma ortho_ne_zero_of_not_collinear (hxy1 : angle x y ≠ 0) (hxy2 : angle x y ≠ π) :
+    ortho x y ≠ 0 := by
+  intro h; rw [ortho_eq_sub_inner _ hx, sub_eq_zero] at h
+  grind [abs, norm_smul, Real.norm_eq_abs, norm_zero, inner_eq_mul_norm_iff_angle_eq_zero,
+    inner_eq_neg_mul_norm_iff_angle_eq_pi]
+
+lemma eq_of_angle_eq_zero (hxy : angle x y = 0) : x = y := by
+  grind [angle_eq_zero_iff, abs, norm_zero, norm_smul, Real.norm_eq_abs, one_smul]
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: This is for two vectors of norm 1, but I feel like it suggests there ought to be a more general lemma `eq_of_angle_eq_zero_of_norm_eq` for two vectors of equal norm, from which this could then be deduced.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean [hunk 16]
```diff
@@ -167,10 +218,63 @@ public theorem angle_eq_angle_add_add_angle_add_of_mem_span {x y z : V} (hy : y
       simpa [hkx, hkz, NNReal.smul_def] using
         angle_eq_angle_add_add_angle_add (kz • z) (smul_ne_zero hkx.ne' hx)
 
+lemma mem_span_of_linear_combination {x y z : V} {kx ky kz : ℝ≥0} (hy : ky ≠ 0)
+    (hlincomb : ky • y = kx • x + kz • z) : y ∈ Submodule.span ℝ≥0 {x, z} := by
+  rw [← smul_right_inj (inv_ne_zero hy), smul_add, ← smul_assoc, smul_eq_mul, inv_mul_cancel₀ hy,
+    one_smul] at hlincomb
+  simp [hlincomb, Submodule.span]
+  grind [Set.pair_subset_iff, SetLike.mem_coe, Submodule.add_mem, Submodule.smul_mem]
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/TriangleInequality.lean]: This ought to be a straightforward deduction from `Submodule.mem_span_pair` and `Submodule.smul_mem_iff`.

File: Mathlib/Geometry/Euclidean/Angle/Unoriented/Basic.lean [hunk 17]
```diff
@@ -333,7 +333,12 @@ theorem sin_eq_one_iff_angle_eq_pi_div_two : sin (angle x y) = 1 ↔ angle x y =
   rw [← cos_eq_zero_iff_angle_eq_pi_div_two, ← abs_eq_zero, abs_cos_eq_sqrt_one_sub_sin_sq, h]
   simp
 
-/-- The angle between a normalized vector and another vector is equal to the angle
+/-- If two vectors of equal norms has the angle between them equal to 0, then
+they are equal. -/
+lemma eq_of_angle_eq_zero_of_norm_eq {x y : V} (hxy : angle x y = 0) (h : ‖x‖ = ‖y‖) : x = y := by
+  grind [angle_eq_zero_iff, norm_smul, Real.norm_eq_abs, norm_ne_zero_iff, abs, one_smul]
+
+/-- The angle between normalized vector and another vector is equal to the angle
```
Comment (jsm28) [inline Mathlib/Geometry/Euclidean/Angle/Unoriented/Basic.lean]:
```suggestion
/-- The angle between a normalized vector and another vector is equal to the angle
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
